US05308830
To a solution of 1,2,4-triazole-3-thiol (20.2 g; 0.20 mol) and sodium methoxide (11.8 g; 0.22 mol) in methanol (250 ml) is added cyclobutylmethyl methanesulfonate (36.4 g; 0.22 mol). The mixture was refluxed for 27 h under dry nitrogen, allowed to cool to 25° C. and filtered. The solid was washed with ethyl acetate and the organic solutions combined and evaporated. The residue was dissolved in water (250 ml) and extracted into ethyl acetate (250 ml) and dichloromethane (100 ml). The extracts were combined, dried (Na2SO4), filtered and evaporated to afford crude cyclobutylmethyl 1,2,4-triazol-3-yl sulfide (21.8 g; 65%) as a white, sticky solid. NMR -d(CDCl3 ; 60 MHz) 1.5-2.8 (m), 3.2 (2H, d, J=7 Hz), 8.0 (1H, s) and 12.4 (1H, br s).

reactant | 1,2,4-triazole-3-thiol | 0.20 mol, 20.2 g | N1N=C(N=C1)S | C2H3N3S
reactant | sodium methoxide | 0.22 mol, 11.8 g | C[O-].[Na+]
reactant | cyclobutylmethyl methanesulfonate | 0.22 mol, 36.4 g | CS(=O)(=O)OCC1CCC1 | C6H12O3S
solvent | methanol | 250 ml | CO | CH4O
product | cyclobutylmethyl 1,2,4-triazol-3-yl sulfide | 21.8 g, 65% | N1N=C(N=C1)SCC1CCC1 | C7H11N3S
